US07160901B2
b. 3-[N-(2-dimethylamino-ethyl)-N-methylsulphonyl-amino]-aniline
Prepared analogously to Example 1d by catalytic hydrogenation of 1.9 g (6.8 mmol) of 3-[N-(2-dimethylamino-ethyl)-N-methylsulphonyl-amino]-nitrobenzene over palladium/charcoal.

reactant | 3-[N-(2-dimethylamino-ethyl)-N-methylsulphonyl-amino]-nitrobenzene | 6.8 mmol, 1.9 g | CN(CCN(S(=O)(=O)C)C=1C=C(C=CC1)[N+](=O)[O-])C | C11H17N3O4S
catalyst | palladium/charcoal | [Pd] | Pd
product | 3-[N-(2-dimethylamino-ethyl)-N-methylsulphonyl-amino]-aniline | CN(CCN(S(=O)(=O)C)C=1C=C(N)C=CC1)C | C11H19N3O2S
